US07772271B2
A solution of 1-ethyl-6-methoxy-1H,1′H-[2,5′]biindolyl-3-carbonitrile (70 mg, 0.22 mmol), prepared as described in Example 1Gb, in pyridine (2 mL) is treated with methanesulfonyl chloride (0.034 mL, 0.44 mmol) and stirred overnight. The reaction mixture is then diluted with H2O and extracted with ethyl acetate (3×). The organic phase is washed with H2O and saturated NaCl, dried and concentrated and purified by flash chromatography using EtOAc/hexanes (30-80%) to afford 70 mg (81%) of 1-ethyl-1′-methanesulfonyl-6-methoxy-1H,1′H-[2,5′]biindolyl-3-carbonitrile as a tan solid.

reactant | 1-ethyl-6-methoxy-1H,1′H-[2,5′]biindolyl-3-carbonitrile | 0.22 mmol, 70 mg | C(C)N1C(=C(C2=CC=C(C=C12)OC)C#N)C=1C=C2C=CNC2=CC1 | C20H17N3O
reactant | methanesulfonyl chloride | 0.44 mmol, 0.034 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | H2O | O | H2O
product | 1-ethyl-1′-methanesulfonyl-6-methoxy-1H,1′H-[2,5′]biindolyl-3-carbonitrile | 70 mg, 81% | C(C)N1C(=C(C2=CC=C(C=C12)OC)C#N)C=1C=C2C=CN(C2=CC1)S(=O)(=O)C | C21H19N3O3S
